US05068340
3-Hydroxy-5-hexadecylisoxazole
13.24 g of hydroxylamine hydrochloride were added to a mixture of 130 ml of a 10% w/v aqueous solution of sodium hydroxide and 100 ml of ethanol, whilst ice-cooling. A solution of 5.08 g of ethyl 2-nonadecynoate (prepared as described in Preparation 31) in ethanol (30 ml) was then added dropwise to the resulting mixture, which was then stirred at room temperature for 16 hours. The mixture was then adjusted to a pH value of 3 by adding concentrated hydrochloric acid, and then the mixture was extracted three times with diethyl ether. The combined extracts were washed with water, dried and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 50 g of silica gel. 4.09 g of the title compound were isolated from the fractions eluted with a 1:1 by volume mixture of methylene chloride and hexane, to give crystals melting at 85°-86° C. (from cold diethyl ether).

reactant | hydroxylamine hydrochloride | 13.24 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl 2-nonadecynoate | 5.08 g | C(C#CCCCCCCCCCCCCCCCC)(=O)OCC | C21H38O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Hydroxy-5-hexadecylisoxazole | 4.09 g | OC1=NOC(=C1)CCCCCCCCCCCCCCCC | C19H35NO2
